US04053601
Methyl 3-[2-(2,3-epoxypropoxy)-4-methylbenzoyl]-propionate was treated with t-butylamine in a similar manner to the procedure described in Example 2(i) to give methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methylbenzoyl]-propionate, m.p. 82°-84.5°.

reactant | Methyl 3-[2-(2,3-epoxypropoxy)-4-methylbenzoyl]-propionate | O1C(COC2=C(C(=O)CCC(=O)OC)C=CC(=C2)C)C1 | C15H18O5
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methylbenzoyl]-propionate | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)OC)C=CC(=C1)C)O | C19H29NO5
